US08455399B2
N-[2,6-dibromo-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)phenyl]-3-nitro-4-(1,2,4-triazol-1-yl)benzamide (Compound No. A4 of Table A)
To a suspension of 2,6-dibromo-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-phenylamine (Example I1) (635 mg, 1.35 mmol) in 1,2-dichloroethane (6.5 ml) was added triethylamine (0.57 ml, 4.06 mmol), followed by 3-nitro-4-(1H-1,2,4-triazol-1-yl)benzoic acid (634 mg, 2.7 mmol) and bis(2-oxo-3-oxazolidinyl)phosphonic chloride (“BOP—Cl”) (689 mg, 2.7 mmol). The reaction mixture was stirred at reflux for 16 hours. The progress of the reaction was followed by thin layer chromatography and, because it was necessary in this case, further doses of 3-nitro-4-(1H-1,2,4-triazol-1-yl)benzoic acid (4×0.675 mmol), bis(2-oxo-3-oxazolidinyl)phosphonic chloride (4×1.35 mmol) and triethylamine (4×1.35 mmol) were added over the course of 48 hours. The reaction was quenched by addition of aqueous hydrochloric acid (1M) and the phases were separated. The organic phase was washed with saturated aqueous sodium hydrogen carbonate, dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 1:2) to give Compound No. A4 of Table A (605 mg, 65% yield).

reactant | 2,6-dibromo-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-phenylamine | 1.35 mmol, 635 mg | BrC1=C(C(=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)Br)N | C10H4Br2F9N
reactant | triethylamine | 4.06 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitro-4-(1H-1,2,4-triazol-1-yl)benzoic acid | 2.7 mmol, 634 mg | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1N1N=CN=C1 | C9H6N4O4
reactant | bis(2-oxo-3-oxazolidinyl)phosphonic chloride | 2.7 mmol, 689 mg | O=C1OCCN1[ClH]P(=O)[ClH]N1C(OCC1)=O | C6H11Cl2N2O5P
reactant | 3-nitro-4-(1H-1,2,4-triazol-1-yl)benzoic acid | 0.675 mmol | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1N1N=CN=C1 | C9H6N4O4
reactant | bis(2-oxo-3-oxazolidinyl)phosphonic chloride | 1.35 mmol | O=C1OCCN1[ClH]P(=O)[ClH]N1C(OCC1)=O | C6H11Cl2N2O5P
reactant | triethylamine | 1.35 mmol | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 6.5 ml | ClCCCl | C2H4Cl2
product | N-[2,6-dibromo-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)phenyl]-3-nitro-4-(1,2,4-triazol-1-yl)benzamide | 65% yield | BrC1=C(C(=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)Br)NC(C1=CC(=C(C=C1)N1N=CN=C1)[N+](=O)[O-])=O | C19H8Br2F9N5O3
